US05807857
e) 5-(1,2,4-Triazol-4-yl)-1H-pyrrolo[2,3-c]pyridine
5-Amino-1H-pyrrolo[2,3-c]pyridine (2 g, 15 mmol), diformylhydrazine (1.32 g, 15 mmol) and dry DMF (1.5 mL) were heated at 170° C. under nitrogen for 4 hours. After cooling, ethyl acetate (10 mL) and water (10 mL) were added. The mixture was stirred vigorously for 15 min. The resulting precipitate was collected by filtration, and chromatographed on silica eluting with a gradient of 5 to 7 to 10% MeOH in DCM to give a yellow solid. This was triturated with ether to give the title compound (1.65 g, 59%) as a yellow/green crystalline solid. mp 254°-257° C. 1H NMR (360 MHz, d6 -DMSO) δ 6.63 (1H, d, J=3.1Hz), 7.79 (1H, d, J=3.0Hz), 7.99 (1H, s), 8.71 (1H, s), 9.21 (2H, s) and 11.89 (1H, br s).

reactant | 5-Amino-1H-pyrrolo[2,3-c]pyridine | 15 mmol, 2 g | NC=1C=C2C(=CN1)NC=C2 | C7H7N3
reactant | diformylhydrazine | 15 mmol, 1.32 g | C(=O)NNC=O | C2H4N2O2
reactant | DMF | 1.5 mL | CN(C)C=O | C3H7NO
reactant | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 10 mL | O | H2O
product | 5-(1,2,4-Triazol-4-yl)-1H-pyrrolo[2,3-c]pyridine | 1.65 g, 59% | N=1N=CN(C1)C=1C=C2C(=CN1)NC=C2 | C9H7N5
